US04617308
To 0.62 g (1.8 mmol) of 6,7,8-trifluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 15 ml of acetonitrile was added 0.23 g (1.0 equivalent) of N-ethyl-3-pyrrolidinemethanamine and 0.28 g (1.0 equivalent) of 1,8-diazobicyclo [5.4.0]undec-7-ene in 5 ml of acetonitrile. The reaction was refluxed for one hour and then checked by thin layer chromatography. Excess (10%) N-ethyl-3-pyrrolidine methanamine was added as necessary and the mixture heated to reflux for an additional two hours. The solids were then filtered and washed with ether to give 0.70 g of 7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinoline carboxylic acid, mp 249°-251° C.

reactant | 6,7,8-trifluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.8 mmol, 0.62 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)C1=CC=C(C=C1)F)C(=O)O)=O | C16H7F4NO3
reactant | N-ethyl-3-pyrrolidinemethanamine | 0.23 g, 1.0 equivalent | C(C)NCC1CNCC1 | C7H16N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-[3-[(ethylamino)methyl]-1-pyrrolidinyl]-6,8-difluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-3-quinoline carboxylic acid | 0.70 g | C(C)NCC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1=CC=C(C=C1)F)C(=O)O)=O)F | C23H22F3N3O3
